US04757070
5-Hydroxymethyl-beta-carboline-3-carboxylic acid ethyl ester (1.0 g) is stirred in dichloromethane (250 ml) with manganese dioxide (1.5 g) for 16 hours at room temperature (25° C.). After addition of more manganese dioxide (0.75 g) the reaction mixture is stirred for another 16 hours. Then after filtering of the undissolved portion it is evaporated, the residue is recrystallized twice from ethyl acetate. Thus, 0.5 g of 5-formyl-beta-carboline-3-carboxylic acid ethyl ester with a melting point of 273°-276° C. is obtained.

reactant | 5-Hydroxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1)CO | C15H14N2O3
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 1.5 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.75 g | [O-2].[O-2].[Mn+4]
product | 5-formyl-beta-carboline-3-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1)C=O | C15H12N2O3
